### ISSUE TITLE
Rewrite under integrals

### ISSUE THREAD

**Issue by RemyDegenne** [RemyDegenne/testing-lower-bounds#24]
We often want to rewrite inside `lintegral`/`integral`, but for equalities almost everywhere. The way to do that now is the following:
```lean
example {α β : Type*} {mα : MeasurableSpace α} {μ : Measure α}
    {f₁ f₂ : α → β} {g : β → ℝ≥0∞} (h : f₁ =ᵐ[μ] f₂) :
    ∫⁻ x, g (f₁ x) ∂μ = ∫⁻ x, g (f₂ x) ∂μ := by
  refine lintegral_congr_ae ?_
  filter_upwards [h] with x hx
  rw [hx]
```
Can we write a `rw_ae` tactic that does the rewrite in one line?
